US04948794
To a solution of 0.3 g (1.3 mmol) 6-amino-1-methylquinoxaline-2,3(1H,4H)-dione in a mixture of 15 ml water and 0,6 ml 4N sodium hydroxide was added 5 ml acetic acid anhydride. Stirring was continued at 25° C. for 2 h. The precipitate was filtered off and washed with water to give 0.21 g (68%) of 6-acetamido-1-methylquinoxaline-2,3(1H,4H)-dione. M.p. 390° C. NMR (DMSO-d6): 10.1 (1H, broad s), 9.7 (1H, broad s), 7.5-7.0 (3H), 3.43 (3H, s), 2.0 (3H, s).

reactant | 6-amino-1-methylquinoxaline-2,3(1H,4H)-dione | 1.3 mmol, 0.3 g | NC=1C=C2NC(C(N(C2=CC1)C)=O)=O | C9H9N3O2
reactant | acetic acid anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 15 ml | O | H2O
solvent | sodium hydroxide | 4N, 0,6 ml | [OH-].[Na+]
product | 6-acetamido-1-methylquinoxaline-2,3(1H,4H)-dione | 0.21 g, 68% | C(C)(=O)NC=1C=C2NC(C(N(C2=CC1)C)=O)=O | C11H11N3O3
